Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Nausea, vomiting x1 week
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with hx of treated schistosomiasis in ___ presenting with 
intermittent N/V x1 week, and orthostasis. Pt spent one month in 
___ in ___, and returned to ___ again in ___. 
Immediately upon return from the ___ trip, she was diagnosed 
with and completed a course of praziquantel for schistosomiasis. 
One week prior to presentation, on ___ she developed nausea, 
with sensation of the world spinning, unable to get out of bed. 
She had dry heaves, and awoke feeling much less dizzy, but with 
persistent nausea. Through ___, she had anorexia, unable to 
tolerate a full diet. She had school work due, and tried to push 
through her symptoms, assuming she had a GI virus. On ___ and 
___, she had a better appetite, although she did notice some 
postprandial nausea that then resolved. On the day prior to 
presentation, at noon, she went for a run. At dinner, she began 
to feel queasy, then abruptly developed terrible nausea with 
"tunnel vision," emesis of lunch and ?dinner from prior night. 
Emesis persisted q15-30 minutes. She presented to ___ for further evaluation, with 
persistent q15 minute emesis. They gave oral rehydration 
therapy, then 2L IVF, but was persistently orthostatic, and was 
transferred to ___ ED. Review of ___ records reveal that they 
were unable to obtain orthostatics ___ emesis when sitting up.

She denies headaches, sore throat, rhinorrhea, chest pain, SOB. 
She has abdominal tenderness from repeated emesis, but none 
prior to onset of emesis. Denies dysuria, hematuria, melena, 
hematochezia, diarrhea, constipation. She did have alternating 
diarrhea/constipation with ___ colored stools when she was 
diagnosed with schisto; she does not have these symptoms with 
this episode. 

In the ___ ED:
VS 98.4, 72, 117/78, 98% RA
Labs notable for WBC 7.2, Hb 13.8, Plt 176, Cr 0.7, UHCG 
negative, UA negative, LFTs WNL, parasite smear negative
Received 2L IVF at ___ prior to 
transfer
UCx sent

On arrival to the floor, she reports Ativan helped with the 
nausea, and allowed her to sleep, and able to tolerate some 
ginger ale. Zofran did not relieve her symptoms. 

ROS: all else negative
 
Past Medical History:
Blateral foot surgery
Acne
Dysmenorrhea
Migraine headaches with aura
Lactose intolerance
 
Social History:
___
Family History:
Father died of a ruptured berry aneurysm of the
Circle of ___ at age ___, pt was age ___.  Mother with migraine 
headache.  
 
Physical Exam:
ADMISSION EXAM:
VS 99.0 PO 109 / 67 R Lying 90 18 99 Ra. HR 82->11 from lying to 
standing (my measurement), lightheadedness with standing 
improved from prior, but persists
Gen: Pleasant, thin female appears stated age, NAD
HEENT: PERRL, EOMI, clear oropharynx, anicteric sclera
Neck: Supple, no cervical or supraclavicular adenopathy
CV: RRR, no m/r/g
Lungs: CTAB, no wheeze or rhonchi
Abd: soft, mild TTP at suprapubic region, no rebound or 
guarding, normoactive bowel sounds, no hepatosplenomegaly
GU: No foley
Ext: WWP, no c/c/e
Neuro: alert, interactive, CN II-XII intact, strength ___ in UE 
and ___ bilaterally, finger to nose intact on R, deferred on L 
___ L antecubital PIV, stands up without assistance
Skin: No rash or lesions

DISCHARGE EXAM:
VS: 98.0PO 97 / 57 60 16 100 Ra 
Gen: Pleasant, thin female appears stated age, NAD
HEENT: PERRL, EOMI, clear oropharynx, anicteric sclera
Neck: Supple, no cervical or supraclavicular adenopathy
CV: RRR, no m/r/g
Lungs: CTAB, no wheeze or rhonchi
Abd: soft, NT/ND, no rebound or guarding, normoactive bowel
sounds, no hepatosplenomegaly
GU: No foley
Ext: WWP, no c/c/e
Neuro: alert, interactive, CN II-XII intact, strength ___ in UE
and ___ bilaterally, finger to nose intact bilaterally, gait
testing deferred at current time
Skin: No rash or lesions
 
Pertinent Results:
ADMISSION LABS:
___ 12:30PM URINE  HOURS-RANDOM
___ 12:30PM URINE  UCG-NEGATIVE
___ 12:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-NEG
___ 12:30PM URINE  RBC-4* WBC-<1 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 12:30PM URINE  MUCOUS-RARE
___ 05:20AM   GLUCOSE-91 UREA N-12 CREAT-0.7 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-106 TOTAL CO2-19* ANION GAP-17
___ 05:20AM   estGFR-Using this
___ 05:20AM   ALT(SGPT)-14 AST(SGOT)-22 ALK PHOS-74 TOT 
BILI-0.6
___ 05:20AM   LIPASE-31
___ 05:20AM   ALBUMIN-3.9
___ 05:20AM   WBC-7.2 RBC-4.67 HGB-13.8 HCT-41.5 MCV-89 
MCH-29.6 MCHC-33.3 RDW-12.3 RDWSD-40.1
___ 05:20AM   NEUTS-85.1* LYMPHS-6.4* MONOS-7.4 EOS-0.4* 
BASOS-0.3 IM ___ AbsNeut-6.09 AbsLymp-0.46* AbsMono-0.53 
AbsEos-0.03* AbsBaso-0.02
___ 05:20AM   PLT COUNT-176
___ 05:20AM   PARST SMR-NEGATIVE

DISCHARGE LABS:
___ 07:00AM BLOOD WBC-3.9* RBC-4.44 Hgb-13.4 Hct-39.4 
MCV-89 MCH-30.2 MCHC-34.0 RDW-12.3 RDWSD-40.2 Plt ___
___ 07:00AM BLOOD Glucose-128* UreaN-5* Creat-1.0 Na-141 
K-3.8 Cl-104 HCO3-23 AnGap-18
___ 07:00AM BLOOD ALT-12 AST-16 AlkPhos-61 TotBili-0.2
___ 07:00AM BLOOD Albumin-3.7 Calcium-9.0 Phos-4.3 Mg-1.9

CT head w/ and w/out contrast ___:
1. No evidence of acute intracranial hemorrhage, intracranial 
mass or edema.  
Please note MRI of the brain is more sensitive for the 
evaluation of 
encephalitis or intracranial masses. 
2. Trace thickening of the ethmoid sinuses. 

MRI/MRA brain ___:
1. Unremarkable noncontrast enhanced brain MRI. 
2. Normal brain MRA without evidence of an aneurysm. 

 
Brief Hospital Course:
___ with hx of treated schistosomiasis in ___ presenting with 
intermittent N/V x1 week and Orthostasis refractory to IV 
hydration.

# N/V: Pt presented with worsening episodic nausea that 
progressed to intractable emesis the day prior to presentation.  
She otherwise reported some occasional chills and dizziness but 
denied any obvious associated abdominal pain.  No clear
association with food or worse at any particular time of day.  
Symptoms self-resolved on HD2.  Unclear cause as symptoms 
sounded possibly related to CNS/inner ear etiologies but neuro 
exam was intact and no nystagmus was noted.  CT head and MRI 
brain were obtained to look for possible CNS infections/lesion 
that could explain pt's dizziness and nausea and both of these 
were negative.  ID was also consulted given pt's recent travel 
to ___ and dx of schistosomiasis for which she completed tx 
but they did not feel that her symptoms were related to a 
parasitic infection.  Neutrophilia and mild thrombocytopenia 
were noted on CBC but these were felt to be stress-related.  
Rest of Chem7 and LFT's were wnl.  As pt's symptoms had 
resolved, she felt that that she wanted to go home.  She was 
counseled to return for further GI work-up and imaging if 
symptoms recurred as the yield of pursuing this w/u in the 
absence of symptoms was felt to be low.

# Orthostasis: Felt to be related to volume depletion as this 
improved with aggressive IV fluids (6L on admission)

# Migraine headaches: pt c/o mild headache on admission which 
improved with fluids and Tylenol.  Not similar to prior 
migraines.

Transitional:
============
[] Pt presented with n/v, the etiology of which is unclear but 
symptoms have self-resolved.  If they recur, consider CT a/p for 
further w/u.

Billing: greater than 30 minutes spent on discharge counseling 
and coordination of care.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Minocycline 100 mg PO Q24H 
2. Minastrin ___ Fe (norethindrone-e.estradiol-iron) 1 mg-20 
mcg(24) /75 mg (4) oral DAILY 
3. Tretinoin 0.05% Cream 1 Appl TP QHS 

 
Discharge Medications:
1.  Minastrin ___ Fe (norethindrone-e.estradiol-iron) 1 mg-20 
mcg(24) /75 mg (4) oral DAILY  
2.  Minocycline 100 mg PO Q24H  
3.  Tretinoin 0.05% Cream 1 Appl TP QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Nausea and vomiting due to unclear cause

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in with nausea, dizziness, and dehydration.  We gave 
you a lot of fluids and your symptoms improved.  We also did a 
CT scan and MRI of your head to look for any lesions or 
inflammation to explain your symptoms and these were negative.

At this point, the cause of your symptoms is unclear.  It is 
possible that it could have been caused by an unusual viral 
infection which has now improved.  If you symptoms of nausea and 
vomiting recur and you are unable to tolerate any oral intake, 
please come back to the Emergency Department for further 
evaluation.  It might be helpful to obtain a CT scan of your 
abdomen if and when you are having symptoms.

It was a pleasure taking care of you at ___ 
___.
 
Followup Instructions:
___